US08236823B2
To N-(3-isopropyl-phenyl)-4-methyl-3-nitro-benzamide (3.0 g, 0.010 mol) dissolved in EtOAc (60 mL) in a 100 mL RBF was added Pd/C (10%, 250 mg). The flask was capped with a rubber septum and flushed with H2 gas through a balloon/needle. Positive H2 pressure was applied through the balloon/needle and reaction was stirred vigorously at room temperature for 3 days. TLC indicated clean conversion of starting material. The reaction was filtered through a pad of sand/celite. After concentration, the mixture was purified by silica gel chromatography to afford a light orange oil. Trituration with a mixture of hexanes and EtOAc afforded 3-amino-N-(3-isopropyl-phenyl)-4-methyl-benzamide as an off-white solid. MS m/z 269=[M+H]+. Calc'd for C17H20N2O: 268.36.

reactant | N-(3-isopropyl-phenyl)-4-methyl-3-nitro-benzamide | 0.010 mol, 3.0 g | C(C)(C)C=1C=C(C=CC1)NC(C1=CC(=C(C=C1)C)[N+](=O)[O-])=O | C17H18N2O3
solvent | EtOAc | 60 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 250 mg | [Pd] | Pd
product | 3-amino-N-(3-isopropyl-phenyl)-4-methyl-benzamide | NC=1C=C(C(=O)NC2=CC(=CC=C2)C(C)C)C=CC1C | C17H20N2O
